US08865726B2
(S)—N2-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-N1-(2-methoxyethyl)-3-methylbutane-1,2-diamine was prepared by the procedure described in Example 15, Step 4, from (S)-2-(3-bromopyrazolo[1,5-a]pyrimidin-5-ylamino)-3-methylbutanal and 2-methoxyethanamine. LCMS (APCI+) m/z 356, 358 [M+H]+.

reactant | (S)-2-(3-bromopyrazolo[1,5-a]pyrimidin-5-ylamino)-3-methylbutanal | BrC=1C=NN2C1N=C(C=C2)N[C@H](C=O)C(C)C | C11H13BrN4O
reactant | 2-methoxyethanamine | COCCN | C3H9NO
product | (S)—N2-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-N1-(2-methoxyethyl)-3-methylbutane-1,2-diamine | BrC=1C=NN2C1N=C(C=C2)N[C@H](CNCCOC)C(C)C | C14H22BrN5O
